US04208531
Methyl 6-acetamido-2,3,6-trideoxy-α-D-erythro-hexopyranoside (1.5 g) in 0.1 M aqueous hydrochloric acid (30 ml) was heated at 100° for 0.5 h. The solution was neutralized with Amberlite IR-400 (carbonate form) resin and evaporated in vacuo to yield a syrup, 1.46 g. This syrup showed the presence of two compounds by TLC (ether-methanol, 9:1): (a) Rf 0.08 and (b) Rf 0.05. The separation of these two components was achieved by chromatography in a silica-gel column using mixtures of ether-methanol as eluants. Compound (a), 6-acetamido-2,3,6-trideoxy-D-erythro hexopyranose (Rf 0.08) was obtained as a colourless syrup (0.75 g, 50%) which reduced Fehling's reagent. [α]546125 +50°, [α]D25 +36° (c 0.5, water).

reactant | Methyl 6-acetamido-2,3,6-trideoxy-α-D-erythro-hexopyranoside | 1.5 g | C(C)(=O)NC[C@@H]1[C@H](CC[C@@H](OC)O1)O | C9H17NO4
reactant | carbonate | C([O-])([O-])=O
solvent | hydrochloric acid | 0.1 M, 30 ml | Cl | ClH
product | 6-acetamido-2,3,6-trideoxy-D-erythro hexopyranose | C(C)(=O)NC[C@@H]1[C@H](CCC(O)O1)O | C8H15NO4
